US08685983B2
Steps 2 and 3: N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl)-7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
To a suspension of ethyl 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate (0.11 g, 0.47 mmol) in ethanol was added 1 N NaOH solution (3 mL, 3 mmol) at RT. The reaction mixture was stirred for 16 at RT. The resultant was concentrated, and the residue was diluted with water. The aqueous solution was washed with diethyl ether and then acidified with 2N HCl solution and extracted with dichloromethane. The organic solution was dried over magnesium sulfate and concentrated to give a yellow solid (0.090 g, 93%): MS (ESI pos. ion) m/z: 205 (MH+). Calc'd exact mass for C10H8N2O3: 204. A mixture of 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine (0.08 g, 0.3 mmol), 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid (0.08 g, 0.4 mmol), HATU (0.4 g, 0.8 mmol) in dichlormethane was stirred for 16 h. Then, the mixture was diluted with dichloromethane and aq. NaHCO3 solution. The organic layer was separated, dried over Na2SO4 and concentrated. The residue was purified by ISCO (0-5% MeOH in EtOAc) to give the title compound as a yellow solid (0.032 g, 24%): MS (ESI pos. ion) m/z: 471 (MH+), Calc'd exact mass for C26H19FN4O4: 470; 1HNMR (400 MHz, CDCl3): 11.4 (s, 1H), 9.4 (s, 1H), 9.1 (s, 1H), 8.6 (d, J=6 Hz, 1H), 8.3 (d, J=9 Hz, 1H), 8.0 (dd, J=3, 12 Hz, 1H), 7.9 (m, 2H), 7.5 (m, 1H), 7.4 (d, J=3 Hz, 1H), 7.0-7.3 (m, 2H), 6.4 (d, J=3 Hz, 1H), 3.98 (s, 3H), 2.57 (s, 3H).

reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine | 0.3 mmol, 0.08 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)N | C16H13FN2O2
reactant | 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.4 mmol, 0.08 g | CC=1C=CC=2N(C(C(=CN2)C(=O)O)=O)C1 | C10H8N2O3
reactant | HATU | 0.8 mmol, 0.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichlormethane | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl)-7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 0.032 g, 24% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C1=CN=C2N(C1=O)C=C(C=C2)C | C26H19FN4O4
